Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Suicidal Ideation and ___ Disease
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with history of ___ 
disease and 
urinary retention requiring chronic indwelling catheterization 
who presented with suicidal ideation and decreased functioning 
at
home. History obtained from patient and wife.

The patient was diagnosed with ___ disease in ___ 
and has a 43 CAG repeats on the abnormal allele. Since then he 
was co-managed by Dr. ___ and also by Dr. ___ 
___ at the ___ clinic.  He had been on tetrabenazine 
12.5mg BID for the past year with fair control of chorea, 
however his wife noted that he appeared more sad, withdrawn, and 
losing interest in his hobbies so he was switched to 
deutetrabenazine 6mg BID and paroxetine in ___. 
Immediately after starting this combination, he became extremely 
lethargic at which time the paroxetine was stopped and he was 
switched back to 12.5mg BID of tetrabenazine. Since then, his 
wife has been unhappy with Dr.
___ care and seeking medication changes from 
___ only.

Since that time, his function has declined and his depression 
has worsened. In the end of ___ he also had an episode of acute 
urinary retention, and a Foley was placed in the ED. He was 
discharged with follow up with a urologist but attempts to 
remove it were unsuccessful, and he remains with an indwelling 
catheter.  In addition, his swallowing function appeared to 
worsen and a
bedside evaluation by a swallow therapist at ___ (not a video 
swallow) led to a recommendation to switch from a full to a 
pureed diet. He requires assistance with meal preparation and 
has stopped ambulating outside; even at home he is increasingly 
ataxic and despite refusing to use a rolling walker, has been 
dependent on walls and furniture to walk. He stopped crossword 
puzzles due to difficulty both holding a pencil and thinking of 
the correct words. He primarily spends his time watching TV.

His mood has also been poor in the past several months, but even
more so over the ___. He has slept poorly and lost a
significant amount of weight. He states this is because of his 
HD
diagnosis and worsening symptoms. About 3 weeks ago, he was
started on Ativan 0.5mg TID by his PCP and in the past few 
weeks, he has become increasing depressed and irritable when not 
given a dose of Ativan,
repeatedly pleading for the next dose. On ___ via a telephone
contact with Dr. ___ started him on sertraline on ___
and reduced tetrabenazine to 12.5mg daily. Then in the past ___
days, he has been stating that he no longer wishes to live 
without any active plan to hurt himself or anyone else.  At this 
point his wife decided to bring him to the ED on ___.

Initially at ___ ED, psychiatry was consulted who recommended 
a
1:1 and ___ for suicidal ideation and felt he should
undergo screening for inpatient psych hospitalization. He was
also found to have a UTI and started on cephalexin. Because of a
concern for interaction with his medications and complexity of
his underlying neurodegenerative disorder contributing to his
acute presentation, Neurology was consulted and he was 
ultimately admitted to the neurology service.

 
Past Medical History:
___ disease
Urinary detention
Suicidal ideation with hospital admission due to haloperidol 
side effect
 
Social History:
___
Family History:
No known family history of HD. Mother had dementia prior to 
death
in early ___, was diagnosed with Alzheimer's. Father died of 
lung
cancer at age ___. He has 3 siblings (brother ___, sisters ___, ___)
without symptoms. He has 2 children and multiple grandchildren
without symptoms.
 
Physical Exam:
Physical Exam:
Vitals: 97.9 64 ___ 99% RA 
General: asleep but easily arousable, in no acute distress.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND. Urinary catheter in place
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x3. Delayed time of responses 
and
decreased spontaneous speech output, but appropriate. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Able to name high
frequency objects but difficulty with low frequency objects.
Speech moderately dysarthric. Able to follow both midline and
appendicular commands. Able to register 3 objects and recall ___
at 5 minutes, with additional 1 after cues and. There was no
evidence of apraxia or neglect. +frontal release signs with 
snout
and grasp reflexes present.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Difficulty with vertical eye movements, multiple
saccadic intrusions. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Decreased bulk and tone. Difficulty maintaining neck
extension, mild motor impersistence. Frequent diffuse chorea 
with
both small amplitude movements in the face and fingers
(+athetosis), and moderate amplitude in the head, extremities,
and trunk.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: Moderate dysmetria on FNF bilaterally. 

-Gait: Mild difficulty with initiation. Wide-based gait, with
truncal ataxia requiring assistance with 1 person, however able
to take several steps and turn without falling.

 
Pertinent Results:
___ 05:40AM BLOOD WBC-8.5 RBC-4.79 Hgb-15.2 Hct-44.5 MCV-93 
MCH-31.7 MCHC-34.2 RDW-13.6 RDWSD-46.1 Plt ___
___ 11:45AM BLOOD Neuts-77.3* Lymphs-15.5* Monos-5.1 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-6.85* AbsLymp-1.37 
AbsMono-0.45 AbsEos-0.05 AbsBaso-0.03
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-87 UreaN-19 Creat-1.1 Na-146 
K-4.4 Cl-107 HCO3-26 AnGap-13
___ 05:40AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.0
___ 11:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
___ is a ___ year old man with history of advanced
___ disease, urinary retention requiring chronic
indwelling catheterization, who presents with suicidal ideation
and decreased functioning at home. 

#HD
Tetrabenazine was stopped on admission due to concern it was 
contributing to suicidal ideation. Olanzapine was stopped due to 
risk of developing apathy as well as ineffectiveness. We started 
aripiprazole 10mg daily for chorea and mood.

#SI
Mr. ___ was placed on 1:1 observation, and psychiatry was 
consulted. They recommended starting sertraline daily for mood, 
and it was titrated up to 75mg daily prior to discharge. He was 
continued on Ativan 0.5mg BID prn anxiety. Per psych consult, 
patient no longer expressing SI, and did not have intent or 
plan. 1:1 observation was discontinued, and we continued 
medication titration. During his stay, his mood fluctuated, and 
he continued to report symptoms of depressed mood. His 
sertraline was increased to 75mg daily ___, and he understood 
it may take several weeks before he feels the mood benefits of 
this medication. 

# CAUTI
On admission UA positive but urine was collected through chronic 
indwelling foley. Repeat UA ___ through new foley was positive 
with >180 WBC. He was started on ciprofloxacin 500mg BID PO for 
14 day course for CAUTI. Discussed with patient risk of 
infection if foley is kept in, and he refused a trial to void or 
urologic consultation because he wants to keep foley and 
continue to follow as an outpatient. Continue Ciprofloxacin 
500mg Q12H until ___. 

# Swallow
Deemed safe for thin liquids and pureed foods by speech and 
swallow.

Transitional Issues:
Monitor mood symptoms, can increase sertraline to 100mg if no 
improvement over the next few days after discharge. 
Continue antibiotics for UTI until ___. 
Follow up with Dr. ___ at ___ Unit

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. tetrabenazine 12.5 mg oral DAILY 
2. Sertraline 25 mg PO DAILY 
3. OLANZapine 2.5 mg PO QHS 
4. LORazepam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  ARIPiprazole 10 mg PO DAILY  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 14 Days 
last day ___ for 14 day cours  
3.  Sertraline 75 mg PO DAILY  
4.  LORazepam 0.5 mg PO BID:PRN anxiety  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
___ disease 
Depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized for changes in your mood, including 
thoughts of hurting yourself. We stopped your tetrabenazine and 
olanzapine because we thought these medications may have been 
contributing to your mood. We found that you also had a urinary 
tract infection, and treated you with antibiotics for that for a 
14 day course. We changed your medications to help improve your 
mood, and increased your sertraline while you were here. We 
discussed how it might take a few weeks for you to start feeling 
mood improvement on the medications. We discussed trying to take 
out your foley, but you did not want us to do this. We got you 
ready to go to ___ Unit, where you 
will have specialized care for your symptoms. 

Start taking Sertraline 75 mg daily and Aripiprazole 10mg daily 
to help with your mood.

It was a pleasure taking care of you and we wish you the best!
Sincerely,
Your ___ Neurology Team 
 
Followup Instructions:
___